* Z:\mnt\design.r\spice\examples\1506-3.3.asc
V1 IN 0 5
C1 N004 0 .0015µ
C2 OUT 0 100µ
L1 N003 OUT 5µ
C3 N001 N003 .68µ
D1 OUT N001 1N914
D2 0 N003 MBRS340
XU1 IN N001 OUT 0 N004 N002 MP_01 N003 LT1506 top=1.82K bot=4.99K
Rload OUT 0 1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT1506.sub
.backanno
.end
